2154-03-19 07:32:00 Physician Resident Progress Note
Chief Complaint: 75F with COPD, DM, CHF, and CAD admitted with
   increased SOB
   24 Hour Events:
 MULTI LUMEN - START [**2154-3-18**] 12:12 PM
 SPUTUM CULTURE - At [**2154-3-18**] 10:00 PM
   Subjective: Intubated and sedated
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Latex
   Unknown;
   Amoxicillin
   Unknown;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Unknown;
   Propoxyphene
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2154-3-18**] 09:00 PM
   Infusions:
   Labetalol - 0.5 mg/min
   Propofol - 25 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2154-3-18**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2154-3-19**] 12:00 AM
   Other medications:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2154-3-19**] 07:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 37.1
C (98.8
   HR: 78 (78 - 93) bpm
   BP: 136/79(93){110/58(72) - 151/79(98)} mmHg
   RR: 18 (17 - 36) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
    CVP: 4 (3 - 15)mmHg
   Total In:
                                                                    729 mL
                                                                    558 mL
   PO:
   TF:
   IVF:
                                                                    669 mL
                                                                    558 mL
   Blood products:
   Total out:
                                                                    270 mL
                                                                    250 mL
   Urine:
                                                                    270 mL
                                                                    250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    459 mL
                                                                    308 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 503 (485 - 503) mL
   PS : 8 cmH2O
   RR (Set): 20
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 75
   PIP: 12 cmH2O
   SpO2: 99%
   ABG: 7.32/35/122/17/-7
   Ve: 11.5 L/min
   PaO2 / FiO2: 244
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : left base)
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right: Absent, Left: Absent, LLE in external fixation
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   95 K/uL
   10.5 g/dL
   200 mg/dL
   2.6 mg/dL
   17 mEq/L
   4.6 mEq/L
   65 mg/dL
   112 mEq/L
   141 mEq/L
   32.9 %
   11.2 K/uL
        [image002.jpg]
                             [**2154-3-18**]  11:45 AM
                             [**2154-3-18**]  01:08 PM
                             [**2154-3-18**]  08:06 PM
                             [**2154-3-18**]  09:52 PM
                             [**2154-3-19**]  04:21 AM
   WBC
   10.4
   11.2
   Hct
   33.7
   32.9
   Plt
   103
   95
   Cr
   2.4
   2.6
   TCO2
   19
   20
   19
   Glucose
   114
   200
   Other labs: PT / PTT / INR:14.1/56.9/1.2, CK / CKMB / Troponin-T:44//,
   Differential-Neuts:93.0 %, Band:5.0 %, Lymph:2.0 %, Mono:Units: %
   Range: [**3-25**] %, Eos:Units: %
   Range: 0-4 %, Lactic Acid:0.9 mmol/L, Ca++:9.7 mg/dL, Mg++:1.4 mg/dL,
   PO4:4.7 mg/dL
   Assessment and Plan
   # Respiratory failure. Patient with evidence of a LLL PNA on CXR, and
   chest congestion and tachypnea, with history of COPD and wheezing on
   exam to suggest COPD flare. Patient does not appear to be volume
   overloaded on exam, but difficult to assess volume status given poor
   lung volumes, and thick neck. Patient with CVP 15.
   -Will treat with vancomycin and levofloxacin to cover MRSA and CAP.
   Consider addition of anaerobic coverage given potential for aspiration.
   -Will check blood cultures, sputum/endotracheal suction culture, urine
   legionella
   -Will continue on A/C for now; wean FiO2 and PEEP as tolerated, but
   expect that patient will be a difficult extubation based on prior
   experience
   -CXR in AM to evaluate for ETT placement.
   -Continue ipratropium/albuterol nebulizer treatments overnight
   -Continue IV solumedrol for now in the setting of a COPD flare; convert
   to po steroids when able.
   .
   #. COPD. Patient likely with COPD flare in the setting of a pneumonia.
   -Will give ipratropium/albuterol nebulizers q6h
   -Treat pneumonia as above
   -Continue steroids as above.
   .
   #. CHF. Patient with evidence of regional hypokinesis c/w CAD at prior
   echo, with EF 40%. Patient does not appear to be volume overloaded on
   exam, but difficult to assess volume status in this patient. CVP of 15.
   -Will hold off on diuresis at this point given hypernatremia and
   elevated creatinine
   -Restart outpatient lasix when patient's creatinine stable.
   .
   #. Metabolic acidosis. Patient with evidence of hyperchloremic non-gap
   metabolic acidosis. [**Month (only) 60**] be from renal failure, but no other
   -Would avoid normal saline for rehydration. Give LR if indicated.
   .
   #. CAD. Patient w/hx CAD. EKG shows no evidence of acute ST-T changes.
   Cardiac enzymes remarkable for elevated troponin but without CK/MB
   elevation.
   -Continue cardioprotective meds
   -Repeat CE in AM.
   -ASA 81 mg qd
   .
   #. Hypertension. Patient iwth hypertensive urgency with evidence of
   elevated cardiac enzymes and worsening of renal failure.
   -D/c nitro gtt, start labetolol gtt until stable then transition to po
   metoprolol per home meds.
   .
   #. Chronic renal insufficiency. Paitent with chronic renal
   insufficiency, increased from baseline. Recently had furosemide and
   lisinopril held.
   -Will check urine lytes
   -Monitor for now; renally dose medications
   -No acute indication for dialysis.
   .
   #. Thrombocytopenia. Patient with low platelets of unclear etiology.
   Possible causes would include meds (including recent Bactrim).
   -Will stop Bactrim for now and monitor.
   .
   #. Diabetes mellitus. Patient with repeated episodes of hypoglycemia.
   -Reduce dose of glargine
   -Start D5W drip at 50 cc/hr until fingersticks normalize.
   .
   #. UTI. Patient with recent UTI, receiving meropenem at [**Name (NI) 455**] [**Last Name (NamePattern1) **]
 unclear duration of therapy or whether abx completed. Need to contact
   [**Name (NI) 455**] [**Last Name (NamePattern1) **] for records in AM.
   .
   #. Depression/hx hallucinations.
   -Will continue risperdal
   -Restraints in place
   -Will monitor for signs of agitation after extubation
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2154-3-18**] 12:12 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: ICU consent signed Comments:
   Code status: DNR (do not resuscitate)
   Disposition:ICU

2154-03-20 07:45:00 Physician Resident Progress Note
Chief Complaint: 75F with COPD, DM, CHF admitted with SOB
   24 Hour Events:
   extubated successfully
   given additional 1L NS over the evening
   urine growing GNR >100K
   Patient unable to provide history: Language barrier
   Allergies:
   Latex Unknown; Amoxicillin Unknown;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen) Unknown;
   Propoxyphene Unknown;
   Antibiotics:
   Levofloxacin 250mg PO daily day 3
   Other medications:
   Methylprednisolone 125mg IV q7
   Metoprolol 5mg IV q6
   ASA 81 daily
   Albutero, atrovent
   Celexa, Famotidine, Ferrous sulfate, calcitriol, Vicodin, Allopurinol,
   risperdal, simvastatin
   SQ heparin
   Flowsheet Data as of  [**2154-3-20**] 07:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.9
C (98.4
   HR: 80 (69 - 87) bpm
   BP: 147/53(79){114/53(69) - 155/80(96)} mmHg
   RR: 21 (11 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
    CVP: -1 (-4 - 4)mmHg
   Total In:
                                                                  2,950 mL
                                                                    763 mL
   PO:
                                                                    100 mL
   TF:
   IVF:
                                                                  2,770 mL
                                                                    663 mL
   Blood products:
   Total out:
                                                                    765 mL
                                                                    440 mL
   Urine:
                                                                    765 mL
                                                                    440 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,185 mL
                                                                    323 mL
   Respiratory support
   On 1.5L NC
   Ventilator mode: CPAP
   Vt (Spontaneous): 478 (476 - 542) mL
   PS : 5 cmH2O
   RR (Spontaneous): 19
   FiO2: 40%
   RSBI: 39
   SpO2: 100%
   ABG: ///17/
   Ve: 10 L/min
   Physical Examination
   General Appearance: Overweight / Obese
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : anterior)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm, LLE external fixation
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   87 K/uL
   9.4 g/dL
   143 mg/dL
   2.8 mg/dL
   17 mEq/L
   4.2 mEq/L
   78 mg/dL
   114 mEq/L
   141 mEq/L
   29.0 %
   6.6 K/uL
        [image002.jpg]
   Fingersticks:188-282
   CXR: read pending, L sided infiltrate no change
   Micro
   [**3-19**] and [**3-18**] sputum >25polys no organisms cx pending
   [**3-18**] urine legionella ag negative
   [**3-18**] blood cx [**3-16**] NGTD
   [**3-16**] urine >100,000 GNRs
                             [**2154-3-18**]  11:45 AM
                             [**2154-3-18**]  01:08 PM
                             [**2154-3-18**]  08:06 PM
                             [**2154-3-18**]  09:52 PM
                             [**2154-3-19**]  04:21 AM
                             [**2154-3-19**]  11:43 AM
                             [**2154-3-19**]  04:28 PM
                             [**2154-3-20**]  05:18 AM
   WBC
   10.4
   11.2
   8.4
   6.6
   Hct
   33.7
   32.9
   30.3
   29.0
   Plt
   103
   95
   87
   87
   Cr
   2.4
   2.6
   2.7
   2.8
   TropT
   0.15
   0.13
   0.12
   TCO2
   19
   20
   19
   Glucose
   114
   200
   214
   143
   Other labs: PT / PTT / INR:14.4/35.0/1.3, CK / CKMB /
   Troponin-T:40/5/0.12, Differential-Neuts:95.3 %, Band:Units: %
   Range: 0-5 %, Lymph:3.4 %, Mono:1.1 %, Eos:0.2 %, Lactic Acid:0.9
   mmol/L, Ca++:9.5 mg/dL, Mg++:2.1 mg/dL, PO4:5.3 mg/dL
   Assessment and Plan
   # Respiratory failure. Patient with evidence of a LLL PNA on CXR with
   history of COPD and wheezing on exam to suggest COPD flare. Could have
   had some pulmonary edema in setting of hypertension in ED. Now
   clinically much improved, good sats on minimal supplemental O2.
   -Can change to PO levoflox continue for 10d course, can d/c vancomycin
   -Follow up cultures and reculture if febrile
   -Continue ipratropium/albuterol nebulizer treatments
   #. COPD. Patient likely with COPD flare in the setting of a pneumonia.
   -Will give ipratropium/albuterol nebulizers q6h
   -Change to PO steroids
   #. CHF. Patient with evidence of regional hypokinesis c/w CAD at prior
   echo, with EF 40%. Patient does not appear to be volume overloaded on
   exam and CVPs low, suspect that she is intravascularly dry. Urine
   output yesterday borderline.
   -Continue NS today follow urine output
   #. CAD. Patient w/hx CAD. EKG shows no evidence of acute ST-T changes.
   Troponin slightly elevated at admission but trending down. Continue
   ASA.
   #. Hypertension. Patient with hypertensive urgency with evidence of
   elevated cardiac enzymes and worsening of renal failure.
   -Change back to home dose metoprolol .Holding ACEI in setting of Cr
   elevated above baseline.
   #. Acute on chronic renal failure FeUrea ~20% consistent with pre-renal
   state suspect volume depleted rather than simply poor perfusion due to
   HF. Has had recent antibiotics but urine eos negative. Follow urine
   output with hydration and recheck PM electrolytes.
   #. Thrombocytopenia. [**Month (only) 60**] be secondary to medication eg recent Bactrim
   also has been on vancomycin and pepcid Follow for now. If decreases
   further would check HIT serology
   #. Diabetes mellitus.
   -Titrate up glargine today
   .
   #. UTI. Patient with recent UTI, receiving meropenem at [**Name (NI) 455**] [**Last Name (NamePattern1) **]
 unclear duration of therapy or whether abx completed.  Admission
   urine cx growing GNRs
Follow up urine culture adjust antibiotics
   .
   #. Depression/hx hallucinations.
   -Continue risperdal
   -Restraints in place
   -Will monitor for signs of agitation after extubation
   ICU Care
   Nutrition: diabetic diet
   Glycemic Control:  Comments: Glargine and humalog
   Lines:
   Multi Lumen - [**2154-3-18**] 12:12 PM   DC central line today. Place PICC
   in anticipation of IV abx (may need carbepenem for UTI)
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:  n/a
   Communication:  with HCP
   [**Name (NI) 66**] status: Full code
   Disposition: Floor, screen for return to rehab

2154-03-20 11:13:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   extubated
   24 Hour Events:
   Allergies:
   Latex
   Unknown;
   Amoxicillin
   Unknown;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Unknown;
   Propoxyphene
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2154-3-18**] 09:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2154-3-20**] 09:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Dyspnea
   Heme / Lymph: Anemia
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2154-3-20**] 11:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.9
C (98.4
   HR: 78 (69 - 87) bpm
   BP: 144/68(86){114/53(69) - 155/80(96)} mmHg
   RR: 28 (11 - 28) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
   CVP: 3 (-4 - 4)mmHg
   Total In:
                                                                  2,950 mL
                                                                  1,148 mL
   PO:
                                                                    160 mL
   TF:
   IVF:
                                                                  2,770 mL
                                                                    988 mL
   Blood products:
   Total out:
                                                                    765 mL
                                                                    535 mL
   Urine:
                                                                    765 mL
                                                                    535 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,185 mL
                                                                    613 mL
   Respiratory support
   Ventilator mode: CPAP
   Vt (Spontaneous): 478 (478 - 542) mL
   PS : 5 cmH2O
   RR (Spontaneous): 19
   FiO2: 40%
   RSBI: 39
   SpO2: 97%
   ABG: ///17/
   Ve: 10 L/min
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   mid insp, Diminished: )
   Abdominal: Soft, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.4 g/dL
   87 K/uL
   143 mg/dL
   2.8 mg/dL
   17 mEq/L
   4.2 mEq/L
   78 mg/dL
   114 mEq/L
   141 mEq/L
   29.0 %
   6.6 K/uL
        [image002.jpg]
                             [**2154-3-18**]  11:45 AM
                             [**2154-3-18**]  01:08 PM
                             [**2154-3-18**]  08:06 PM
                             [**2154-3-18**]  09:52 PM
                             [**2154-3-19**]  04:21 AM
                             [**2154-3-19**]  11:43 AM
                             [**2154-3-19**]  04:28 PM
                             [**2154-3-20**]  05:18 AM
   WBC
   10.4
   11.2
   8.4
   6.6
   Hct
   33.7
   32.9
   30.3
   29.0
   Plt
   103
   95
   87
   87
   Cr
   2.4
   2.6
   2.7
   2.8
   TropT
   0.15
   0.13
   0.12
   TCO2
   19
   20
   19
   Glucose
   114
   200
   214
   143
   Other labs: PT / PTT / INR:14.4/35.0/1.3, CK / CKMB /
   Troponin-T:40/5/0.12, Differential-Neuts:94.7 %, Band:Units: %
   Range: 0-5 %, Lymph:4.4 %, Mono:0.8 %, Eos:Units: %
   Range: 0-4 %, Lactic Acid:0.9 mmol/L, Ca++:9.5 mg/dL, Mg++:2.1 mg/dL,
   PO4:5.3 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **]) - extubated successfully.
   Best guess at present is that she developed a LL pneumonia leading to
   her presentation but it is somewhat surprising that sputum cx is
   negative. Will d/c Vanco but complete course of levoflox
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 URINARY TRACT INFECTION (UTI) - awaiting sensitivities may require
   meropenim
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION - back on out patient regime
 HEART FAILURE (CHF), SYSTOLIC, CHRONIC - substantial MR [**First Name (Titles) **] [**Last Name (Titles) **]
 HYPOGLYCEMIA
 ACIDOSIS, METABOLIC
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE) - creat is stable at 2.4
 THROMBOCYTOPENIA, ACUTE
 DIABETES MELLITUS (DM), TYPE II beter control. Now on po meds
 OBSTRUCTIVE SLEEP APNEA (OSA) - will restart CPAP
   on CPAP at home
 HYPERTENSION, BENIGN
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2154-3-18**] 12:12 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :Transfer to rehab / long term care facility
   Total time spent: 35 minutes